US08859494B2
Analogously to example 1, cyclobutane-1,1-diyldimethanol, phenol and methyl 3-(4-hydroxyphenyl)hex-4-ynoate were used to obtain 3-[4-(1-phenoxymethylcyclobutylmethoxy)phenyl]hex-4-ynoic acid.

reactant | cyclobutane-1,1-diyldimethanol | C1(CCC1)(CO)CO | C6H12O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl 3-(4-hydroxyphenyl)hex-4-ynoate | OC1=CC=C(C=C1)C(CC(=O)OC)C#CC | C13H14O3
product | 3-[4-(1-phenoxymethylcyclobutylmethoxy)phenyl]hex-4-ynoic acid | O(C1=CC=CC=C1)CC1(CCC1)COC1=CC=C(C=C1)C(CC(=O)O)C#CC | C24H26O4
